US06878717B2
To a pressure vessel was added 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-chloro-2-pyrimidinyl]amino]benzonitrile (0.00064 mol), tetrahydrofuran (3 ml), O-methylhydroxylamine (0.06 g), tetrahydrofuran and NaOH 1N (0.00067 mol). The reaction mixture was stirred for 3 days at room temperature, then for 1 day at 75° C., for 1 day at 90° C. and for 2 days at 110° C. To O-methylhydroxylamine (0.60 g) was added tetrahydrofuran (4 ml) and NaOH 50% (0.00719 mol). The liquid was decanted into the reaction flask and the reaction mixture was heated at 110° C. for 3 days. The solvent was evaporated. The residue was dissolved in CH2Cl2, washed with a saturated NaHCO3 solution and water, dried (Na2SO4), filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 98/2). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from CH3CN, filtered off and dried, yielding 0.15 g of 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-(methoxyamino)-2-pyrimidinyl]amino]-benzonitrile (51%); mp. 185-186° C. The sample was dried (0.2 mm Hg, 80° C., 16 hours) (comp. 48).

reactant | 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-chloro-2-pyrimidinyl]amino]benzonitrile | 0.00064 mol | BrC=1C(=NC(=NC1Cl)NC1=CC=C(C#N)C=C1)OC1=C(C=C(C=C1C)C#N)C | C20H13BrClN5O
reactant | O-methylhydroxylamine | 0.06 g | CON | CH5NO
reactant | NaOH | 0.00067 mol, 1N | [OH-].[Na+]
reactant | O-methylhydroxylamine | 0.60 g | CON | CH5NO
reactant | NaOH | 0.00719 mol | [OH-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-(methoxyamino)-2-pyrimidinyl]amino]-benzonitrile | 0.15 g, 51% | BrC=1C(=NC(=NC1NOC)NC1=CC=C(C#N)C=C1)OC1=C(C=C(C=C1C)C#N)C | C21H17BrN6O2
